US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-9-(3-pentyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt
To a stirring solution of N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(3-pentyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (35 mg, 0.08 mmol) in dry ether (2 mL) was added hydrochloric acid (1 mL). The reaction was stirred for 1 h and then conc. in vacuo to a white solid. The solid was dissolved in water and lyophilized to 25 mg of a white solid. MS (ESI) 327 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-9-(3-pentyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.08 mmol, 35 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)C(CC)CC)C(F)(F)F)=O)CC1 | C22H29F3N2O3
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | (R)-1,3,4,10b-tetrahydro-9-(3-pentyl)-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloric acid salt | Cl.CCC(CC)C1=CC(=C2C(N3[C@H](C2=C1)CNCC3)=O)C(F)(F)F | InChI=1S/C17H21F3N2O.ClH/c1-3-10(4-2)11-7-12-14-9-21-5-6-22(14)16(23)15(12)13(8-11)17(18,19)20;/h7-8,10,14,21H,3-6,9H2,1-2H3;1H/t14-;/m0./s1
